US06166028
1-Fluoro-2,4dimethoxy-5-nitro-benzene
To a solution of 2,4-dimethoxy-nitrobenzene (1.0 g) in tetrachloroethane (10 mL) is added 3,5-dichloro-1-fluoro-pyridinium triflate (85%, 5.07 g) and the mixture is heated to 120° C. for 5 hours. Additional 3,5-dichloro-1-fluoro-pyridinium triflate (85%, 0.25 g) is added and heating is continued for 1 hour. The solution is then cooled to room temperature and passed over a column of silica gel (hexanes followed by 30% ethyl acetate in hexanes is used as the eluant). Product containing fractions are combined, evaporated under reduced pressure, and the residue is crystallized from hexanes to provide the desired product as a tan solid.

reactant | 2,4-dimethoxy-nitrobenzene | 1.0 g | COC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C8H9NO4
reactant | 3,5-dichloro-1-fluoro-pyridinium triflate | 5.07 g | [O-]S(=O)(=O)C(F)(F)F.ClC=1C=[N+](C=C(C1)Cl)F
reactant | 3,5-dichloro-1-fluoro-pyridinium triflate | 0.25 g | [O-]S(=O)(=O)C(F)(F)F.ClC=1C=[N+](C=C(C1)Cl)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrachloroethane | 10 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 1-Fluoro-2,4dimethoxy-5-nitro-benzene | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC)OC | C8H8FNO4
